US06624173B1
LDA (14.66 mmol) was generated at 0° C. by adding n-BuLi (6.4 mL of 2.3 M solution in hexane, 14.66 mmol) to a solution of diisopropylamine (2.27 mL, 16.0 mmol) in dry tetrahydrofuran (THF) (13 mL). N-(diphenylmethylidene)-3-(aminomethyl)pyridine (3.62 g, 13.33 mmol) was dissolved in dry tetrahydrofuran (13 mL) and the solution cooled to −78° C. under a nitrogen atmosphere. LDA was then transferred to the solution of N-(diphenylmethyl-idene)-3-(aminomethyl)pyridine using a double tipped needle under a positive nitrogen atmosphere. The resulting purple suspension was stirred for a further 45 minutes, during which time the temperature of the reaction mixture was allowed to rise to −4° C. Tetrahydro-3-furanmethanol methanesulfonate (2.64 g, 14.7 mmol) in tetrahydrofuran (10 mL) was then added via a syringe and the reaction mixture was allowed to warm to ambient temperature followed by additional stirring for 12 hours. Hydrochloric acid (10% aq., 20 mL) was added, and the reaction mixture was stirred for 20-30 minutes followed by extraction with ethyl acetate (3×25 mL). The resulting aqueous solution was first made basic by adding solid K2CO3, and then extracted with chloroform (3×25 mL). The combined organic extracts were dried over anhydrous K2CO3. Filtration was followed by evaporation of chloroform to yield 1-amino-1-(3-pyridyl)-2-(3-tetrahydrofuranyl)-ethane as a diastereomeric (50:50) mixture (pale yellow oil, 2.03 g) which was used in the next step without further purification.

reactant | LDA | 14.66 mmol | [Li+].CC(C)[N-]C(C)C
reactant | n-BuLi | 14.66 mmol, 2.3 M, 6.4 mL | [Li]CCCC
reactant | diisopropylamine | 16.0 mmol, 2.27 mL | C(C)(C)NC(C)C | C6H15N
reactant | Tetrahydro-3-furanmethanol methanesulfonate | 14.7 mmol, 2.64 g | CS(=O)(=O)OCC1COCC1 | C6H12O4S
reactant | Hydrochloric acid | 20 mL | Cl | ClH
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 13 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-amino-1-(3-pyridyl)-2-(3-tetrahydrofuranyl)-ethane | NC(CC1COCC1)C=1C=NC=CC1 | C11H16N2O
